US06194441B1
N-[(5S)-3-(3-Fluoro-4-(4-hydroxymethylimidazol-1-yl)phenyl)-2-oxooxazolidin-5-yl-methyl]acetamide
N-[(5S)-3-(4-(4-t-Butyldimethylsilyloxymethylimidazol-1-yl)-3-fluorophenyl)-2-oxooxazolidin-5-ylmethyl]acetamide (6.0 g) was dissolved in a mixture of acetic acid (60 ml), THF (20 ml) and water (20 ml), and left to stir overnight at ambient temperature. Solvents were evporated at 40° in vacuo to give a gum. This was dissolved in dichloromethane (25 ml), and dry diethyl ether (100 ml) stirred in. The precipitate was triturated and stirred until properly solid, then filtered, washed with ether, and dried in vacuo to give product (3.7 g).

reactant | N-[(5S)-3-(4-(4-t-Butyldimethylsilyloxymethylimidazol-1-yl)-3-fluorophenyl)-2-oxooxazolidin-5-ylmethyl]acetamide | 6.0 g | [Si](C)(C)(C(C)(C)C)OCC=1N=CN(C1)C1=C(C=C(C=C1)N1C(O[C@H](C1)CNC(C)=O)=O)F | C22H31FN4O4Si
reactant | diethyl ether | 100 ml | C(C)OCC | C4H10O
solvent | acetic acid | 60 ml | C(C)(=O)O | C2H4O2
solvent | THF | 20 ml | C1CCOC1 | C4H8O
solvent | water | 20 ml | O | H2O
solvent | dichloromethane | 25 ml | ClCCl | CH2Cl2
product | N-[(5S)-3-(3-Fluoro-4-(4-hydroxymethylimidazol-1-yl)phenyl)-2-oxooxazolidin-5-yl-methyl]acetamide | 3.7 g | FC=1C=C(C=CC1N1C=NC(=C1)CO)N1C(O[C@H](C1)CNC(C)=O)=O | C16H17FN4O4
